logic test, PSPICE
* requires 'set vicompat=psa'

v8 8 0 1 Pulse (0 1 0.45 1m 1m 5 10)
v9 9 0 0

B1 1 0 V=~(~v(9)&v(8)) + 0.5

.control
tran 1m 1
plot v(1) v(8) v(9)
listing
.endc

.end
