simple diode automatic test
* 'set vicompat=lta'   required in .spiceinit
V1 in 0 dc 0

D1 in out1 A
R1 out1 0 1u
D2 in out2 B
R2 out2 0 1u
D3 in out3 C
R3 out3 0 1u

.probe alli

.model A D(Ron=1 Roff=1Meg Vfwd=1 Vrev=2)
.model B D(Ron=1 Roff=1Meg Vfwd=1 Vrev=2 Ilimit=1 RevILimit=1)
.model C D(Ron=1 Roff=1Meg Vfwd=1 Vrev=2 Ilimit=1 RevILimit=1 epsilon=1 revepsilon=1)

.control
dc V1 -5 5 1m
display
set xbrushwidth=2
plot i(r1) i(r2) i(r3)
.endc

.end
